US08729263B2
3-(2-Fluoro-4-methoxyphenyl)-6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazine (1.08 g, 3.00 mmol) was dissolved in CH2Cl2 (15 mL) and a 1 M solution of BBr3 in CH2Cl2 (7.5 mL, 7.5 mmol) was added dropwise. The reaction mixture was stirred at RT overnight, then diluted with CH2Cl2 and a pH 4 buffered aqueous solution. The aqueous phase was washed with 3:1 chloroform/propan-2-ol (2×), then basified to pH 8 with saturated NaHCO3. The aqueous phase was extracted with 3:1 chloroform/propan-2-ol (4×). The combined organic phases were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. 3-Fluoro-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol was afforded as a brown solid (0.59 g, 52%). [M+H]: 346.4; 1H NMR (400 MHz, MeOD) δ 7.88 (dd, J=9.0, 2.2 Hz, 1H), 7.69 (t, J=9.0 Hz, 1H), 7.16 (d, J=9.0 Hz, 1H), 6.76 (dd, J=9.0, 2.0 Hz, 1H), 6.65 (dd, J=13.0, 2.0 Hz, 1H), 5.78 (tt, J=11.0, 4.0 Hz, 1H), 2.26 (dd, J=12.5, 4.0 Hz, 2H), 1.47 (t, J=12.0 Hz, 2H), 1.39 (s, 6H), 1.29 (s, 6H).

reactant | 3-(2-Fluoro-4-methoxyphenyl)-6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazine | 3.00 mmol, 1.08 g | FC1=C(C=CC(=C1)OC)C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C | C20H26FN3O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7.5 mmol, 7.5 mL | C(Cl)Cl | CH2Cl2
product | 3-Fluoro-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)oxy)pyridazin-3-yl)phenol | FC=1C=C(C=CC1C=1N=NC(=CC1)OC1CC(NC(C1)(C)C)(C)C)O | C19H24FN3O2
